US08664417B2
Sodium trifluoroacetoxyborohydride was prepared in situ from trifluroacetic acid and sodium borohydride, which means the operation was carried out in a single pot.

reactant | trifluroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium borohydride | [BH4-].[Na+]
product | Sodium trifluoroacetoxyborohydride | FC(C(=O)O[BH3-])(F)F.[Na+] | InChI=1S/C2H3BF3O2.Na/c3-8-1(7)2(4,5)6;/h3H3;/q-1;+1
